US07151111B2
A mixture of 26 g (117.5 mmol) of (S)-1-(4-hydroxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid, 0.66 ml of sulfuric acid, and 100 ml of dimethoxypropane in 700 ml of methanol are heated to reflux for 3 hours. For the working-up, the reaction mixture is reduced to ⅘ of its volume, then the residue is added under stirring to a mixture of ice and water. The precipitated product is collected on a filter funnel, washed with cold water and finally dried under high vacuum to yield 23.7 g (86% of theory) of (S)-1-(4-hydroxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester as a white solid; MS: m/e=234 (M−H)+; optical integrity: 97.4% e.e. .

reactant | (S)-1-(4-hydroxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid | 117.5 mmol, 26 g | OC1=CC=C(C=C1)N1C[C@H](CC1=O)C(=O)O | C11H11NO4
reactant | sulfuric acid | 0.66 ml | S(O)(O)(=O)=O | H2O4S
reactant | dimethoxypropane | 100 ml | COC(C)(C)OC | C5H12O2
reactant | water | O | H2O
solvent | methanol | 700 ml | CO | CH4O
product | (S)-1-(4-hydroxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | 23.7 g, 86% | COC(=O)[C@@H]1CN(C(C1)=O)C1=CC=C(C=C1)O | C12H13NO4
